US07186729B2
Step 3: 4-(4-Chloro-phenyl)-piperidine-4-carbonitrile
To a chilled solution of 4-(4-chloro-phenyl)-4-cyano-piperidine-1-carboxylic acid tert-butyl ester (315 mg, 1 mmol) in 5 ml dichloromethane was added 1 ml trifluoroacetic acid. The reaction was stirred at 0° C. for 3 hours, then concentrated under vacuum. The resulting oil was diluted with dichloromethane and washed twice with saturated aqueous sodium bicarbonate. The aqueous washings were extracted three times with dichloromethane. The combined organic layers were dried with magnesium sulfate and concentrated under vacuum to yield the title compound (180 mg, 82%).

reactant | 4-(4-chloro-phenyl)-4-cyano-piperidine-1-carboxylic acid tert-butyl ester | 1 mmol, 315 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#N)C1=CC=C(C=C1)Cl | C17H21ClN2O2
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(4-Chloro-phenyl)-piperidine-4-carbonitrile | 180 mg, 82% | ClC1=CC=C(C=C1)C1(CCNCC1)C#N | C12H13ClN2
